US08809534B2
To a stirred suspension of methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)-phenoxy]thieno[3,2-b]pyridine-2-carboxylate (50 mg, 0.11 mmol) in MeOH (3 ml), was added 0.4M LiOH/MeOH solution (10 ml, 4.0 mmol). The mixture was heated at 50° C. for 7 hours, and poured into 100 ml of water. 1M HCl was added until pH=4. The resulting precipitates were filtered, washed with water and dried in vacuo to give 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid as light grey solid. Yield: 40 mg, 83%.

reactant | methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)-phenoxy]thieno[3,2-b]pyridine-2-carboxylate | 0.11 mmol, 50 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=C1 | C23H18FN3O4S
reactant | LiOH MeOH | 4.0 mmol, 0.4M, 10 ml | [Li+].[OH-].CO
reactant | water | 100 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
product | 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=C1 | C22H16FN3O4S
